US05308854
Step B: Preparation of 2-t-butylthio-3-(aminomethyl)-5-ethyl-6-methylpyridine
To a suspension of lithium aluminum hydride (54 mg, 1.42 mmol) in diethyl ether (10 mL), under a nitrogen atmosphere, was added dropwise a solution of 2-t-butylthio-3-cyano-5-ethylpyridine (222 mg, 0.95 mmol) in diethyl ether (6 mL). After stirring for 3.5 hours at room temperature, the reaction was quenched with saturated aqueous sodium sulfate and the ether layer dried (Na2SO4), filtered and evaporated to give 219 mg (96%) of crude oily product.

reactant | lithium aluminum hydride | 1.42 mmol, 54 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-t-butylthio-3-cyano-5-ethylpyridine | 0.95 mmol, 222 mg | C(C)(C)(C)SC1=NC=C(C=C1C#N)CC | C12H16N2S
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 6 mL | C(C)OCC | C4H10O
product | 2-t-butylthio-3-(aminomethyl)-5-ethyl-6-methylpyridine | C(C)(C)(C)SC1=NC(=C(C=C1CN)CC)C | C13H22N2S
